US05446161
2.65 g of N-(benzyloxycarbonyl)-4(R)-hydroxy-L-proline were dissolved in 10 ml of dry tetrahydrofuran and cooled to -10° C. while stirring with a magnetic stirrer. 1.15 g of N-ethylmorpholine were added followed immediately by 1.36 g of isobutyl chloroformate. The mixture was stirred at -10° C. for 30 minutes and then 2.19 g of tert.butylamine were added. Stirring was continued at -10° C. for 1hour, the mixture was allowed to warm to room temperature during 2 hours and was then left to stand for 2 hours. The solvent was removed by evaporation in a vacuum and the residue was partitioned between ethyl acetate and water. The organic layer was washed with 10% citric acid solution and sodium bicarbonate solution and then dried over sodium sulphate. The solvent was removed by evaporation to give a solid which wastriturated with diethyl ether and filtered off. There were obtained 2.23 g of crude product which was recrystallized from ethyl acetate/diethyl etherto give 1.57 g of N2 (benzyloxycarbonyl)-N1 -tert butyl-4(R)-hydroxy-L-prolinamide of melting point 128°-130° C.

reactant | N-(benzyloxycarbonyl)-4(R)-hydroxy-L-proline | 2.65 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C13H15NO5
reactant | N-ethylmorpholine | 1.15 g | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 1.36 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | tert.butylamine | 2.19 g | C(C)(C)(C)N | C4H11N
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N2 (benzyloxycarbonyl)-N1 -tert butyl-4(R)-hydroxy-L-prolinamide | 1.57 g | C(C1=CC=CC=C1)OC(=O)NC([C@H]1N(C[C@@H](C1)O)C(C)(C)C)=O | C17H24N2O4
